US06245774B1
5-Bromo-2-methoxybenzylidenecyclopentane
n-BuLi (1.6M solution in hexane) (72.5 ml, 116 mmol) was added dropwise at 0° C. to a solution of cyclopentyltriphenylphosphonium bromide (45.8 g, 111 mmol) in THF (300 ml). The red solution was stirred at 0° C. for 0.5 h then treated with a solution of 5-bromo-2-methoxybenzaldehyde (23.5 g, 109 mmol) in THF (150 ml). The reaction mixture was stirred at RT overnight, concentrated in vacuo, then partitioned between CH2Cl2 (250 ml) and water (150 ml). The organic phase was separated and combined with further CH2Cl2 extracts (2×50 ml). The organic phase was washed (brine; 50 ml), dried (Na2SO4), and concentrated in vacuo. The residue was subjected to chromatography (SiO2; CH2Cl2) to afford the title compound (24.6 g), as a colourless oil δH (80 MHz; CDCl3) 1.6-1.9 (4H, br m, CH2(CH2)2), 2.3-2.6 (4H, br m, CH2(CH2)2CH2), 3.76 (3H, s, OMe), 6.4-6.5 (1H, br m, CH═C), 6.65 (1H, d, J 8.5 Hz, ArH ortho to OMe), 7.18 (1H, dd, J 8.5, 2.4 Hz, ArH para to olefin), and 7.39 (1H, d, J 2.4 Hz, ArH ortho to olefin).

reactant | n-BuLi | 116 mmol, 1.6M, 72.5 ml | [Li]CCCC
reactant | cyclopentyltriphenylphosphonium bromide | 111 mmol, 45.8 g | [Br-].C1(CCCC1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 5-bromo-2-methoxybenzaldehyde | 109 mmol, 23.5 g | BrC=1C=CC(=C(C=O)C1)OC | C8H7BrO2
solvent | THF | 300 ml | C1CCOC1 | C4H8O
solvent | THF | 150 ml | C1CCOC1 | C4H8O
product | 5-Bromo-2-methoxybenzylidenecyclopentane | 24.6 g | BrC=1C=CC(=C(C=C2CCCC2)C1)OC | C13H15BrO
